US06921759B2
Step 1: N-(4-fluorobenzyl)-8-hydroxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide
A suspension of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (12.0 g, 32 mmol) in DMSO (48 mL) was treated with methyl amine (48 mL of a 2M solution in THF, 96 mmol) and Hunig's base (11.1 mL, 86 mmol). The vessel was purged with argon, sealed and stirred at 135C for 3 days. The reaction was cooled, quenched with water (280 mL) and the pH adjusted to 5 by the addition of acetic acid. The reaction was stirred at room temperature for 1 hr and filtered. The solids were washed with water (100 mL) and then EtOAc (50 mL), and dried in vacuo to afford the title compound as a white solid.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 32 mmol, 12.0 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | methyl amine | CN | CH5N
reactant | Hunig's base | 86 mmol, 11.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 48 mL | CS(=O)C | C2H6OS
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-fluorobenzyl)-8-hydroxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)NC)C=C1 | C17H15FN4O2
